* netlist auto-generated by asc_to_net.py from schottky_iv.asc
V1 N001 0 0
R1 N001 N002 1k
D1 N002 0 DSCHOTTKY
.model DSCHOTTKY D(Is=1e-9 N=1.05 Rs=0.05)
.dc V1 -5 1 0.01
.end
