* netlist auto-generated by asc_to_net.py from switching_loss_double_pulse.asc
V1 vtop 0 100
L1 vtop sw 50u
D1 sw vtop DFW
M1 sw gate 0 0 SWMOS
VG gate 0 PWL(0 0 100n 0 150n 15 5150n 15 5200n 0 6200n 0 6250n 15 8250n 15 8300n 0 8500n 0)
Coss sw 0 470p
.model SWMOS NMOS(LEVEL=1 VTO=3 KP=2)
.model DFW D(Is=1e-9 N=1.0 Rs=0.001)
.control
save all @d1[id]
tran 0.5n 8.5u 0 0.5n
wrdata chapter03/dpt_switching_loss.txt v(sw) v(vtop) v(gate) i(l1) @d1[id]
write chapter03/switching_loss_double_pulse.raw
.endc
.end
