* netlist auto-generated by asc_to_net.py from thyristor_two_transistor.asc
VAA N001 0 12
RL N001 anode 100
Q2 gbase N002 anode QPNP2
Q1 N002 gbase 0 QNPN2
Igate 0 gbase PULSE(0 10m 1m 1u 1u 1m 100m)
Rshunt gbase 0 1k
.model QNPN2 NPN(BF=50)
.model QPNP2 PNP(BF=50)
.control
tran 10u 10m
print v(anode) v(gbase) i(vaa)
write chapter02/thyristor_two_transistor.raw
.endc
.end
